************************************************************************
* auCdl Netlist:
* 
* Library Name:  EE113_DSP
* Top Cell Name: 5_6_Multiplier
* View Name:     schematic
* Netlisted on:  Dec 20 00:47:36 2024
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: EE113Lab2
* Cell Name:    inv
* View Name:    schematic
************************************************************************

.SUBCKT inv GND VDD VI VO
*.PININFO VI:I VO:O GND:B VDD:B
MNM0 VO VI GND GND n18 W=220n L=180n m=1
MPM0 VO VI VDD VDD p18 W=660n L=180n m=1
.ENDS

************************************************************************
* Library Name: EE113Lab2
* Cell Name:    And_Gate
* View Name:    schematic
************************************************************************

.SUBCKT And_Gate GND VDD VIN_A VIN_B VOUT
*.PININFO VIN_A:I VIN_B:I VOUT:O GND:B VDD:B
MPM1 net16 VIN_B VDD VDD p18 W=440n L=180n m=1
MPM0 net16 VIN_A VDD VDD p18 W=440n L=180n m=1
MNM1 net15 VIN_B GND GND n18 W=220n L=180n m=1
MNM0 net16 VIN_A net15 GND n18 W=220n L=180n m=1
XI0 GND VDD net16 VOUT / inv
.ENDS

************************************************************************
* Library Name: EE113_DSP
* Cell Name:    Full_Adder_Sum
* View Name:    schematic
************************************************************************

.SUBCKT Full_Adder_Sum A B CI CO_ GND S_ VDD
*.PININFO A:I B:I CI:I CO_:O S_:O GND:B VDD:B
MPM11 CO_ CI net93 VDD p18 W=880n L=180n m=1
MPM10 CO_ A net124 VDD p18 W=880n L=180n m=1
MPM9 net124 B VDD VDD p18 W=880n L=180n m=1
MPM8 net93 B VDD VDD p18 W=880n L=180n m=1
MPM4 net93 A VDD VDD p18 W=880n L=180n m=1
MPM7 S_ CI net127 VDD p18 W=880n L=180n m=1
MPM6 net127 B net128 VDD p18 W=880n L=180n m=1
MPM5 net128 A VDD VDD p18 W=880n L=180n m=1
MPM3 S_ CO_ net104 VDD p18 W=880n L=180n m=1
MPM2 net104 CI VDD VDD p18 W=880n L=180n m=1
MPM1 net104 B VDD VDD p18 W=880n L=180n m=1
MPM0 net104 A VDD VDD p18 W=880n L=180n m=1
MNM11 net90 A GND GND n18 W=440n L=180n m=1
MNM10 net90 B GND GND n18 W=440n L=180n m=1
MNM9 net123 B GND GND n18 W=440n L=180n m=1
MNM8 CO_ CI net90 GND n18 W=440n L=180n m=1
MNM7 CO_ A net123 GND n18 W=440n L=180n m=1
MNM6 net129 B GND GND n18 W=440n L=180n m=1
MNM5 net130 A net129 GND n18 W=440n L=180n m=1
MNM4 S_ CI net130 GND n18 W=440n L=180n m=1
MNM3 net102 CI GND GND n18 W=440n L=180n m=1
MNM2 net102 A GND GND n18 W=440n L=180n m=1
MNM1 net102 B GND GND n18 W=440n L=180n m=1
MNM0 S_ CO_ net102 GND n18 W=440n L=180n m=1
.ENDS

************************************************************************
* Library Name: EE113_DSP
* Cell Name:    4_Full_Adder_Type28
* View Name:    schematic
************************************************************************

.SUBCKT 4_Full_Adder_Type28 A<3> A<2> A<1> A<0> B<3> B<2> B<1> B<0> CO GND 
+ S<3> S<2> S<1> S<0> VDD
*.PININFO A<3>:I A<2>:I A<1>:I A<0>:I B<3>:I B<2>:I B<1>:I B<0>:I CO:O S<3>:O 
*.PININFO S<2>:O S<1>:O S<0>:O GND:B VDD:B
XI6 A<2> B<2> net44 net50 GND net45 VDD / Full_Adder_Sum
XI5 A<1> B<1> net43 net51 GND net46 VDD / Full_Adder_Sum
XI4 A<0> B<0> GND net52 GND net47 VDD / Full_Adder_Sum
XI7 A<3> B<3> net42 net49 GND net48 VDD / Full_Adder_Sum
XI15 GND VDD net48 S<3> / inv
XI14 GND VDD net45 S<2> / inv
XI13 GND VDD net46 S<1> / inv
XI12 GND VDD net47 S<0> / inv
XI11 GND VDD net49 CO / inv
XI10 GND VDD net51 net44 / inv
XI9 GND VDD net50 net42 / inv
XI8 GND VDD net52 net43 / inv
.ENDS

************************************************************************
* Library Name: EE113_DSP
* Cell Name:    6_FA_v3
* View Name:    schematic
************************************************************************

.SUBCKT 6_FA_v3 A<5> A<4> A<3> A<2> A<1> A<0> B<5> B<4> B<3> B<2> B<1> B<0> 
+ GND S<0> S<6> S<5> S<4> S<3> S<2> S<1> VDD
*.PININFO A<5>:I A<4>:I A<3>:I A<2>:I A<1>:I A<0>:I B<5>:I B<4>:I B<3>:I 
*.PININFO B<2>:I B<1>:I B<0>:I S<0>:O S<6>:O S<5>:O S<4>:O S<3>:O S<2>:O 
*.PININFO S<1>:O GND:B VDD:B
XI0 A<3> A<2> A<1> A<0> B<3> B<2> B<1> B<0> net76 GND S<3> S<2> S<1> S<0> VDD 
+ / 4_Full_Adder_Type28
XI3 A<5> B<5> net77 net80 GND net79 VDD / Full_Adder_Sum
XI1 A<4> B<4> net76 net78 GND net81 VDD / Full_Adder_Sum
XI7 GND VDD net79 S<5> / inv
XI6 GND VDD net81 S<4> / inv
XI5 GND VDD net80 S<6> / inv
XI4 GND VDD net78 net77 / inv
.ENDS

************************************************************************
* Library Name: EE113_DSP
* Cell Name:    6_FA_v2
* View Name:    schematic
************************************************************************

.SUBCKT 6_FA_v2 A<5> A<4> A<3> A<2> A<1> A<0> B<5> B<4> B<3> B<2> B<1> B<0> 
+ GND S<6> S<5> S<4> S<3> S<2> S<1> S<0> VDD
*.PININFO A<5>:I A<4>:I A<3>:I A<2>:I A<1>:I A<0>:I B<5>:I B<4>:I B<3>:I 
*.PININFO B<2>:I B<1>:I B<0>:I S<6>:O S<5>:O S<4>:O S<3>:O S<2>:O S<1>:O 
*.PININFO S<0>:O GND:B VDD:B
XI0 A<3> A<2> A<1> A<0> B<3> B<2> B<1> B<0> net76 GND S<3> S<2> S<1> S<0> VDD 
+ / 4_Full_Adder_Type28
XI1 A<4> B<4> net76 net78 GND net81 VDD / Full_Adder_Sum
XI3 A<5> B<5> net77 net80 GND net79 VDD / Full_Adder_Sum
XI4 GND VDD net78 net77 / inv
XI5 GND VDD net80 S<6> / inv
XI6 GND VDD net81 S<4> / inv
XI7 GND VDD net79 S<5> / inv
.ENDS

************************************************************************
* Library Name: EE113_DSP
* Cell Name:    6_FA_vhalf
* View Name:    schematic
************************************************************************

.SUBCKT 6_FA_vhalf A<4> A<3> A<2> A<1> A<0> B<5> B<4> B<3> B<2> B<1> B<0> GND 
+ S<0> S<6> S<5> S<4> S<3> S<2> S<1> VDD
*.PININFO A<4>:I A<3>:I A<2>:I A<1>:I A<0>:I B<5>:I B<4>:I B<3>:I B<2>:I 
*.PININFO B<1>:I B<0>:I S<0>:O S<6>:O S<5>:O S<4>:O S<3>:O S<2>:O S<1>:O GND:B 
*.PININFO VDD:B
XI0 A<3> A<2> A<1> A<0> B<3> B<2> B<1> B<0> net76 GND S<3> S<2> S<1> S<0> VDD 
+ / 4_Full_Adder_Type28
XI3 GND B<5> net77 net80 GND net79 VDD / Full_Adder_Sum
XI1 A<4> B<4> net76 net78 GND net81 VDD / Full_Adder_Sum
XI7 GND VDD net79 S<5> / inv
XI6 GND VDD net81 S<4> / inv
XI5 GND VDD net80 S<6> / inv
XI4 GND VDD net78 net77 / inv
.ENDS

************************************************************************
* Library Name: EE113_DSP
* Cell Name:    5_6_Multiplier
* View Name:    schematic
************************************************************************

.SUBCKT 5_6_Multiplier GND VDD X<5> X<4> X<3> X<2> X<1> X<0> Y<4> Y<3> Y<2> 
+ Y<1> Y<0> Z<10> Z<9> Z<8> Z<7> Z<6> Z<5> Z<4> Z<3> Z<2> Z<1> Z<0>
*.PININFO X<5>:I X<4>:I X<3>:I X<2>:I X<1>:I X<0>:I Y<4>:I Y<3>:I Y<2>:I 
*.PININFO Y<1>:I Y<0>:I Z<10>:O Z<9>:O Z<8>:O Z<7>:O Z<6>:O Z<5>:O Z<4>:O 
*.PININFO Z<3>:O Z<2>:O Z<1>:O Z<0>:O GND:B VDD:B
XI106 GND VDD Y<4> X<0> N0 / And_Gate
XI105 GND VDD Y<4> X<1> N1 / And_Gate
XI104 GND VDD Y<4> X<2> N2 / And_Gate
XI103 GND VDD Y<4> X<3> N3 / And_Gate
XI102 GND VDD Y<4> X<4> N4 / And_Gate
XI101 GND VDD Y<4> X<5> N5 / And_Gate
XI48 GND VDD Y<3> X<0> N6 / And_Gate
XI49 GND VDD Y<3> X<1> N7 / And_Gate
XI50 GND VDD Y<3> X<2> N8 / And_Gate
XI51 GND VDD Y<3> X<3> N9 / And_Gate
XI100 GND VDD Y<3> X<4> N10 / And_Gate
XI99 GND VDD Y<3> X<5> N11 / And_Gate
XI98 GND VDD Y<2> X<0> N12 / And_Gate
XI97 GND VDD Y<2> X<1> N13 / And_Gate
XI96 GND VDD Y<2> X<2> N14 / And_Gate
XI95 GND VDD Y<2> X<3> N15 / And_Gate
XI58 GND VDD Y<2> X<4> N16 / And_Gate
XI59 GND VDD Y<2> X<5> N17 / And_Gate
XI94 GND VDD Y<1> X<1> N18 / And_Gate
XI93 GND VDD Y<1> X<4> N19 / And_Gate
XI92 GND VDD Y<1> X<3> N20 / And_Gate
XI91 GND VDD Y<1> X<5> N21 / And_Gate
XI90 GND VDD Y<1> X<2> N22 / And_Gate
XI89 GND VDD Y<1> X<0> N23 / And_Gate
XI88 GND VDD Y<0> X<4> N24 / And_Gate
XI87 GND VDD Y<0> X<5> N25 / And_Gate
XI86 GND VDD Y<0> X<3> N26 / And_Gate
XI85 GND VDD Y<0> X<2> N27 / And_Gate
XI84 GND VDD Y<0> X<1> N28 / And_Gate
XI83 GND VDD Y<0> X<0> Z<0> / And_Gate
XI73 N29 N30 N31 N32 N33 N34 N17 N16 N15 N14 N13 N12 GND Z<2> N35 N36 N37 N38 
+ N39 N40 VDD / 6_FA_v3
XI72 N35 N36 N37 N38 N39 N40 N11 N10 N9 N8 N7 N6 GND Z<3> N41 N42 N43 N44 N45 
+ N46 VDD / 6_FA_v3
XI107 N41 N42 N43 N44 N45 N46 N5 N4 N3 N2 N1 N0 GND Z<10> Z<9> Z<8> Z<7> Z<6> 
+ Z<5> Z<4> VDD / 6_FA_v2
XI74 N25 N24 N26 N27 N28 N21 N19 N20 N22 N18 N23 GND Z<1> N29 N30 N31 N32 N33 
+ N34 VDD / 6_FA_vhalf
.ENDS

