************************************************************************
* auCdl Netlist:
* 
* Library Name:  EE113_DSP
* Top Cell Name: 6_FA_v2
* View Name:     schematic
* Netlisted on:  Dec 15 17:20:48 2024
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: EE113_DSP
* Cell Name:    Full_Adder_Sum
* View Name:    schematic
************************************************************************

.SUBCKT Full_Adder_Sum A B CI CO_ GND S_ VDD
*.PININFO A:I B:I CI:I CO_:O S_:O GND:B VDD:B
MPM11 CO_ CI net93 VDD p18 W=880n L=180n m=1
MPM10 CO_ A net124 VDD p18 W=880n L=180n m=1
MPM9 net124 B VDD VDD p18 W=880n L=180n m=1
MPM8 net93 B VDD VDD p18 W=880n L=180n m=1
MPM4 net93 A VDD VDD p18 W=880n L=180n m=1
MPM7 S_ CI net127 VDD p18 W=880n L=180n m=1
MPM6 net127 B net128 VDD p18 W=880n L=180n m=1
MPM5 net128 A VDD VDD p18 W=880n L=180n m=1
MPM3 S_ CO_ net104 VDD p18 W=880n L=180n m=1
MPM2 net104 CI VDD VDD p18 W=880n L=180n m=1
MPM1 net104 B VDD VDD p18 W=880n L=180n m=1
MPM0 net104 A VDD VDD p18 W=880n L=180n m=1
MNM11 net90 A GND GND n18 W=440n L=180n m=1
MNM10 net90 B GND GND n18 W=440n L=180n m=1
MNM9 net123 B GND GND n18 W=440n L=180n m=1
MNM8 CO_ CI net90 GND n18 W=440n L=180n m=1
MNM7 CO_ A net123 GND n18 W=440n L=180n m=1
MNM6 net129 B GND GND n18 W=440n L=180n m=1
MNM5 net130 A net129 GND n18 W=440n L=180n m=1
MNM4 S_ CI net130 GND n18 W=440n L=180n m=1
MNM3 net102 CI GND GND n18 W=440n L=180n m=1
MNM2 net102 A GND GND n18 W=440n L=180n m=1
MNM1 net102 B GND GND n18 W=440n L=180n m=1
MNM0 S_ CO_ net102 GND n18 W=440n L=180n m=1
.ENDS

************************************************************************
* Library Name: EE113Lab2
* Cell Name:    inv
* View Name:    schematic
************************************************************************

.SUBCKT inv GND VDD VI VO
*.PININFO VI:I VO:O GND:B VDD:B
MNM0 VO VI GND GND n18 W=220n L=180n m=1
MPM0 VO VI VDD VDD p18 W=660n L=180n m=1
.ENDS

************************************************************************
* Library Name: EE113_DSP
* Cell Name:    4_Full_Adder_Type28
* View Name:    schematic
************************************************************************

.SUBCKT 4_Full_Adder_Type28 A<3> A<2> A<1> A<0> B<3> B<2> B<1> B<0> CO GND 
+ S<3> S<2> S<1> S<0> VDD
*.PININFO A<3>:I A<2>:I A<1>:I A<0>:I B<3>:I B<2>:I B<1>:I B<0>:I CO:O S<3>:O 
*.PININFO S<2>:O S<1>:O S<0>:O GND:B VDD:B
XI6 A<2> B<2> net44 net50 GND net45 VDD / Full_Adder_Sum
XI5 A<1> B<1> net43 net51 GND net46 VDD / Full_Adder_Sum
XI4 A<0> B<0> GND net52 GND net47 VDD / Full_Adder_Sum
XI7 A<3> B<3> net42 net49 GND net48 VDD / Full_Adder_Sum
XI15 GND VDD net48 S<3> / inv
XI14 GND VDD net45 S<2> / inv
XI13 GND VDD net46 S<1> / inv
XI12 GND VDD net47 S<0> / inv
XI11 GND VDD net49 CO / inv
XI10 GND VDD net51 net44 / inv
XI9 GND VDD net50 net42 / inv
XI8 GND VDD net52 net43 / inv
.ENDS

************************************************************************
* Library Name: EE113_DSP
* Cell Name:    6_FA_v2
* View Name:    schematic
************************************************************************

.SUBCKT 6_FA_v2 A<5> A<4> A<3> A<2> A<1> A<0> B<5> B<4> B<3> B<2> B<1> B<0> 
+ GND S<6> S<5> S<4> S<3> S<2> S<1> S<0> VDD
*.PININFO A<5>:I A<4>:I A<3>:I A<2>:I A<1>:I A<0>:I B<5>:I B<4>:I B<3>:I 
*.PININFO B<2>:I B<1>:I B<0>:I S<6>:O S<5>:O S<4>:O S<3>:O S<2>:O S<1>:O 
*.PININFO S<0>:O GND:B VDD:B
XI0 A<3> A<2> A<1> A<0> B<3> B<2> B<1> B<0> net76 GND S<3> S<2> S<1> S<0> VDD 
+ / 4_Full_Adder_Type28
XI1 A<4> B<4> net76 net78 GND net81 VDD / Full_Adder_Sum
XI3 A<5> B<5> net77 net80 GND net79 VDD / Full_Adder_Sum
XI4 GND VDD net78 net77 / inv
XI5 GND VDD net80 S<6> / inv
XI6 GND VDD net81 S<4> / inv
XI7 GND VDD net79 S<5> / inv
.ENDS

